US07550544B2
7-Bromo-2-methyl-1H-indene
To a solution of 116 g (0.52 mol) of 4-bromo-6-chloro-2-methyl-1-indanone in 950 ml of THF-methanol (2:1, vol.), 38.3 g (1.02 mol) of NaBH4 were added in small portions for 2 h at −5° C. (Caution: temperature must be lower 0° C.). The mixture was stirred overnight at ambient temperature. The resulting mixture was poured on 1000 cm3 of ice and acidified with 10% HCl to pH=4. The organic layer was separated and the aqueous layer was extracted with 3×300 ml of methyl-tert-butyl ether. This combined extract was dried over K2CO3 and evaporated to dryness. To the residue 1500 ml of toluene were added and the resulting toluene solution was treated with catalytic amount of pTolSO3H (ca. 2 g) for 2 h at reflux. Then this mixture was cooled to room temperature and passed through a short Silica Gel 60 column (40-63 μm, d 60 mm, 1 40 mm). This column was additionally eluted with 250 ml of toluene. The combined extract was evaporated to dryness. Fractional distillation gave a mixture of the title indenes, b.p. 104-108° C./5 mm Hg. Yield 100 g (93%) of colorless solid.

reactant | 4-bromo-6-chloro-2-methyl-1-indanone | 0.52 mol, 116 g | BrC1=C2CC(C(C2=CC(=C1)Cl)=O)C | C10H8BrClO
reactant | NaBH4 | 1.02 mol, 38.3 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF methanol | 950 ml | C1CCOC1.CO
product | 7-Bromo-2-methyl-1H-indene | BrC=1C=CC=C2C=C(CC12)C | C10H9Br
